US07884109B2
A solution of (R)-4-(2,4-dimethoxybenzylamino)-3-(9-(6,8-difluorochroman-4-yl)-8-oxo-8,9-dihydro-7H-purin-2-ylamino)benzonitrile (230 mg) in DCM (5 mL) was treated with TFA (5 mL) and triethylsilane (1 mL) for 16 h. The mixture was concentrated in vacuo to provide the intermediate (R)-4-amino-3-(9-(6,8-difluorochroman-4-yl)-8-oxo-8,9-dihydro-7H-purin-2-ylamino)benzonitrile. The intermediate was dissolved in 5 mL THF and treated with 3 mL trimethylorthoformate followed by p-toluenesulfonic acid (3 mg). After 1 hour, the mixture was diluted with EtOAc (100 mL) and washed once with saturated aqueous sodium bicarbonate (100 mL). The organic layer was separated, dried over Na2SO4, filtered, and concentrated in vacuo. Column chromatography (50→100% EtOAc/hexanes) provided 78 mg of the title compound. 1H-NMR (300 MHz, 5% CD3OD in CDCl3) δ 8.8 (s, 1H), 8.7 (s, 1H), 8.2 (s, 1H), 7.8 (d, 1H), 7.6 (dd, 1H), 6.8 (td, 1H), 6.4 (dd, 1H), 5.8 (dd, 1H), 4.6 (m, 1H), 4.4 (td, 1H), 2.9 (m, 1H), 2.3 (m, 1H).

reactant | (R)-4-(2,4-dimethoxybenzylamino)-3-(9-(6,8-difluorochroman-4-yl)-8-oxo-8,9-dihydro-7H-purin-2-ylamino)benzonitrile | 230 mg | COC1=C(CNC2=C(C=C(C#N)C=C2)NC2=NC=C3NC(N(C3=N2)[C@@H]2CCOC3=C(C=C(C=C23)F)F)=O)C=CC(=C1)OC | C30H25F2N7O4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 1 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-amino-3-(9-(6,8-difluorochroman-4-yl)-8-oxo-8,9-dihydro-7H-purin-2-ylamino)benzonitrile | NC1=C(C=C(C#N)C=C1)NC1=NC=C2NC(N(C2=N1)[C@@H]1CCOC2=C(C=C(C=C12)F)F)=O | C21H15F2N7O2
